US09108957B2
5-Phenyl-[1,4]oxazepane hydrochloride was prepared by the same procedure as that of 5-methyl-[1,4]oxazepane hydrochloride except for utilizing 4-benzyl-5-phenyl-[1,4]oxazepane instead of 4-benzyl-5-methyl-[1,4]oxazepane. Then 5-phenyl-[1,4]oxazepane hydrochloride was obtained as white solid (0.14 g, 0.65 mmol, 73%).

reactant | 5-methyl-[1,4]oxazepane hydrochloride | Cl.CC1NCCOCC1
reactant | 4-benzyl-5-phenyl-[1,4]oxazepane | C(C1=CC=CC=C1)N1CCOCCC1C1=CC=CC=C1 | C18H21NO
product | 5-phenyl-[1,4]oxazepane hydrochloride | Cl.C1(=CC=CC=C1)C1NCCOCC1 | InChI=1S/C11H15NO.ClH/c1-2-4-10(5-3-1)11-6-8-13-9-7-12-11;/h1-5,11-12H,6-9H2;1H
